US05852213
(S)-3-(1-Oxononanyl)-4-(phenylmethyl)-2-oxazolidinone
To a solution of 25.2 g (0.142 mol) of (S)-(-)-4-benzyl-2-oxazolidinone (Aldrich Chemical Company) in 300 mL of THF cooled to -78° C. was added 97.0 mL (0.155 mol) of 1.6M n-butyllithium. The reaction mixture was stirred at -78° C. for 1 hour and nonanoyl chloride (17.4 g, 0.129 mol), dissolved in 75 mL of THF, was then added. The resulting mixture was stirred at -78° C. for 3 hours and then quenched with 5% HCl solution. The resulting mixture was extracted with ether and the combined organics were washed with water, saturated sodium bicarbonate and brine. The organics were then dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with ethyl acetate/hexanes (1:10), to provide 24.75 g (78%) of the desired product as a white solid.

reactant | (S)-(-)-4-benzyl-2-oxazolidinone | 0.142 mol, 25.2 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyllithium | 0.155 mol, 1.6M, 97.0 mL | C(CCC)[Li]
reactant | nonanoyl chloride | 0.129 mol, 17.4 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | (S)-3-(1-Oxononanyl)-4-(phenylmethyl)-2-oxazolidinone | 24.75 g, 78% | O=C(CCCCCCCC)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C19H27NO3
